US09290519B2
Preparation of 7-bromoindan-1-one
To a solution of 37.9 g (177 mmol) of 7-bromoindan-1-ol in 3500 ml of dichloromethane 194 g (900 mmol) of pyridinium chlorochromate was added. The resulting mixture was stirred at room temperature for 5 h, then passed through a silica gel pad (500 ml), and the elute was evaporated to dryness. Yield 27.6 g (74%) of a white crystalline solid. Anal. Calc for C9H7BrO: C, 51.22; H, 3.34. Found: C, 51.35; H, 3.41. 1H NMR (CDCl3): δ 7.51 (m, 1H, 6-H); 7.36-7.42 (m, 2H, 4,5-H); 3.09 (m, 2H, 3,3′-H); 2.73 (m, 2H, 2,2′-H).

reactant | 7-bromoindan-1-ol | 177 mmol, 37.9 g | BrC=1C=CC=C2CCC(C12)O | C9H9BrO
reactant | dichloromethane | 900 mmol, 3500 ml, 194 g | ClCCl | CH2Cl2
reactant | pyridinium chlorochromate | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
product | 7-bromoindan-1-one | BrC=1C=CC=C2CCC(C12)=O | C9H7BrO
